US04521598
p-Nitrobenzyl 7β-(2-thienylacetamido)-2-phenylthio-3-amino-3-cephem-4-carboxylate
To a solution of 0.675 g. of p-nitrobenzyl 7β-(2-thienylacetamido)-3-azido-3-cephem-4-carboxylate in 33 ml. of 1,2-dichloroethane were added 5 equivalents (0.74 g.) of thiophenol and the solution was heated at the reflux temperature for 90 min. The reaction mixture was evaporated to dryness and the reaction product residue was chromatographed over 8 g. of silica (Merck, toluene) using 500 ml. of toluene vs. 500 ml. of 50% ethyl acetate:toluene. The early fractions (23-26) contained a mixture of starting material and the title compound. The middle fractions (31-36) contained 0.035 g. of the title compound while the later fractions (45-59) contained 0.236 g. of the 3-amino ester.

reactant | p-nitrobenzyl 7β-(2-thienylacetamido)-3-azido-3-cephem-4-carboxylate | S1C(=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)N=[N+]=[N-])C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C20H16N6O6S2
reactant | thiophenol | 0.74 g, 5 equivalents | C1(=CC=CC=C1)S | C6H6S
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | p-Nitrobenzyl 7β-(2-thienylacetamido)-2-phenylthio-3-amino-3-cephem-4-carboxylate | S1C(=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(C(S2)SC2=CC=CC=C2)N)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C26H22N4O6S3
